US05488152
4.4 g (20 mmol) of tetrafluorophthalic anhydride are dissolved in 3 g of water and 30 g of ethanol, 4.2 g of lithium hydroxide hydrate are added, and the mixture is heated at reflux for 48 hours. Then 50 g of water are added and an ethanol/water mixture (31.9 g) is distilled off until a head temperature of 100° C. is reached. Subsequently a pH of 0.6 is established by adding 19 g of 30% strength hydrochloric acid, and the mixture is extracted using a mixture of 20 g of 1,2-dichlorobenzene and 10 g of Hostarex A327. The organic phase is dried over MgSO4, heated at 140° C. for one hour until the evolution of gas comes to an end (decarboxylation) and then adjusted at 25° C. to a pH of 14 using 12.1 g of 35% strength sodium hydroxide solution. The mixture is extracted three times with in each case 50 g of dichloromethane, and the aqueous phase is adjusted to a pH of 0.7 by adding 9.4 g of 30% strength hydrochloric acid and extracted with MTBE. The mixture is dried over MgSO4 and filtered, and removal of the solvent leaves 3.4 g (15.5 mmol, corresponding to 77%) of yellowish 3-ethoxy-2,4,5-trifluorobenzoic acid (purity by GC>95%).

reactant | tetrafluorophthalic anhydride | 20 mmol, 4.4 g | FC=1C(=C(C(=C2C1C(=O)OC2=O)F)F)F | C8F4O3
reactant | lithium hydroxide hydrate | 4.2 g | O.[OH-].[Li+]
reactant | ethanol | 30 g | C(C)O | C2H6O
solvent | water | 3 g | O | H2O
solvent | water | 50 g | O | H2O
product | 3-ethoxy-2,4,5-trifluorobenzoic acid | 15.5 mmol, 3.4 g | C(C)OC=1C(=C(C(=O)O)C=C(C1F)F)F | C9H7F3O3
